US08802704B2
Step 2: tert-butyl N-(3-cyanobenzyl)-N-(2-hydroxyethyl)-beta-alaninate
Tert-butyl acrylate (3.56 ml, 29 mmol) was added into a solution of 3-{[(2-hydroxyethyl)amino]methyl}benzonitrile (4.9 g, 28 mmol) in anhydrous DMF (5 mL) under nitrogen atmosphere. The resulting mixture was heated at 80° C. for 12 hours. The reaction mixture was diluted with water (100 mL) and extracted with ethyl acetate (100 mL). The organic layer was dried over sodium sulfate and concentrated under reduced pressure to afford the title compound as colorless liquid. 1H NMR (DMSO-d6, 400 MHz) δ 7.75 (s, 1H), 7.69 (d, J=7.6 Hz, 1H), 7.62 (d, J=7.9 Hz, 1H), 7.50 (m, 1H), 4.36 (t, 1H), 3.62 (s, 2H), 3.43 (m, 2H), 2.69 (t, 2H), 2.47 (m, 2H), 2.34 (t, 2H), 1.38 (s, 9H).

reactant | Tert-butyl acrylate | 29 mmol, 3.56 ml | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | 3-{[(2-hydroxyethyl)amino]methyl}benzonitrile | 28 mmol, 4.9 g | OCCNCC=1C=C(C#N)C=CC1 | C10H12N2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | tert-butyl N-(3-cyanobenzyl)-N-(2-hydroxyethyl)-beta-alaninate | C(#N)C=1C=C(CN(CCC(=O)OC(C)(C)C)CCO)C=CC1 | C17H24N2O3
